US08975400B2
4-((5-bromopyridin-3-yl)oxy)-3-fluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 5-bromopyridin-3-ol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 5-bromopyridin-3-ol | BrC=1C=C(C=NC1)O | C5H4BrNO
product | 4-((5-bromopyridin-3-yl)oxy)-3-fluorobenzaldehyde | BrC=1C=C(C=NC1)OC1=C(C=C(C=O)C=C1)F | C12H7BrFNO2
